US05660598
A mixture of N-butylaniline (7.45 parts) anhydrous potassium carbonate (7.5 parts), 2-bromoheptane (13.5 parts) and DMF (25 parts) was stirred at 130° C. for 86 hours. The reaction mixture was poured into water, saturated with salt and extracted with ethyl acetate. The organic phase was washed with water, dried (MgSO4) and evaporated to leave N-butyl-N-(1-methylhexyl)aniline (11.8 parts, approximately 60% strength). This material had acetic anhydride (10 parts) added to it prior to further use.

reactant | N-butylaniline | C(CCC)NC1=CC=CC=C1 | C10H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoheptane | BrC(C)CCCCC | C7H15Br
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-butyl-N-(1-methylhexyl)aniline | approximately 60% | C(CCC)N(C1=CC=CC=C1)C(CCCCC)C | C17H29N
